US07276511B2
Synthesis of ethyl amino-(3,4-dichlorophenyl)-acetate hydrochloride
tert-Butoxycarbonylamino-(3,4-dichlorophenyl)-acetic acid (900 g) was dissolved in ethanol (4.5 L). Thionyl chloride (417 mL) was added to the resultant solution, followed by refluxing for one hour. The reaction mixture was left to cool to room temperature. The solvent was evaporated under reduced pressure. Ethyl acetate was added to the residue, followed by filtration and drying, to thereby give the title compound (286 g, 35%, 3 steps).

reactant | tert-Butoxycarbonylamino-(3,4-dichlorophenyl)-acetic acid | 900 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC(=C(C=C1)Cl)Cl | C13H15Cl2NO4
reactant | Thionyl chloride | 417 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 4.5 L | C(C)O | C2H6O
product | ethyl amino-(3,4-dichlorophenyl)-acetate hydrochloride | 286 g, 35% | Cl.NC(C(=O)OCC)C1=CC(=C(C=C1)Cl)Cl | InChI=1S/C10H11Cl2NO2.ClH/c1-2-15-10(14)9(13)6-3-4-7(11)8(12)5-6;/h3-5,9H,2,13H2,1H3;1H
